US06441197B1
(c) 3-Acetamido-4-nitrophthalic anhydride (3)
3-Acetamido-4-nitrophthalic acid (0.538 g, 2.00 mmol) was dissolved in acetic anhydride (10 ml) at 80° C., and the solution was added with acetyl chloride (1 ml) and stirred for 2 hours. The solvent was evaporated, and a small amount of anhydrous dichloromethane was added to the residue, and precipitates were collected by filtration to obtain the title compound (0.29 g, 58%).

reactant | 3-Acetamido-4-nitrophthalic acid | 2.00 mmol, 0.538 g | C(C)(=O)NC1=C(C(C(=O)O)=CC=C1[N+](=O)[O-])C(=O)O | C10H8N2O7
reactant | acetyl chloride | 1 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetamido-4-nitrophthalic anhydride | 0.29 g, 58% | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1[N+](=O)[O-] | C10H6N2O6
